US05770380
Cbz-Gly-Asp(OBut)-Gly-OH (HMY2731).
A mixture of Cbz-Gly-OH (6280 mg, 30 mmol), SuOH (3450 mg, 30 mmol) and DCC (6190 mg, 30 mmol) in dry THF (50 mL) was place d in refrigerator at 5° C. for 11 hours. The precipitated urea was filtered off and the filtrate was evaporated. The evaporated residue was triturated from CHCl3/hexanes and the N-hydroxysuccinimide ester was dried in vacuo (8140 mg, 89%). To a solution of H-Asp(OBut)-Gly-OH (2020 mg, 8.2 mmol) and NaHCO3 (1380 mg, 16.4 mmol) in water (40 mL) was added a solution of Cbz-Gly-OSu (2520 mg, 8.2 mmol) in THF (40 mL) and the mixture was stirred at r.t. for two hours. The mixture was added CH2Cl2 (200 mL) and washed with 1N HCl (200 mL) and water (200 mL). The organic layer was evaporated to give the titled compound (3330 mg, 93%): 1H NMR (300 MHz, DMSO-d6) δ 12.552 (s, 1H), 8.169 (m, 2H), 7.450 (t, J=6.0 Hz, 1H), 7.386 (s, 5H), 5.018 (s, 2H), 4.650 (qd, J=7.3, 2.4 Hz, 1H), 3.8-3.5 (m, 4H), 2.641 (dd, J=15.9, 5.4 Hz, 1H), 2.424 (dd, J=15.9, 8.1 Hz, 1H), 1.363 (s, 9H); 13C NMR (300 MHz, DMSO-d6) δ 171.0, 170.7, 169.2, 169.0, 156.5, 137.0, 128.4, 127.8 (2C), 80.2, 65.5, 49.2, 43.5, 40.8, 37.7, 27.7.

reactant | Cbz-Gly-OH | 30 mmol, 6280 mg | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | DCC | 30 mmol, 6190 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Asp(OBut)-Gly-OH | 8.2 mmol, 2020 mg | N[C@@H](CC(OC(C)(C)C)=O)C(=O)NCC(=O)O | C10H18N2O5
reactant | NaHCO3 | 16.4 mmol, 1380 mg | C(=O)(O)[O-].[Na+]
reactant | Cbz-Gly-OSu | 8.2 mmol, 2520 mg | N(CC(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C14H14N2O6
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 40 mL | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Cbz-Gly-Asp(OBut)-Gly-OH | 3330 mg, 93% | N(CC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C20H27N3O8
